US07067529B2
To a stirred solution of [2-cyano-2-(3,4-dimethoxy-phenyl)-vinyl]-carbamic acid ethyl ester (8 g, 29.0 mmol) in diphenyl ether (70 mL) was added concentrated sulfuric acid (0.5 mL). The reaction mixture was heated at 230° C. for 4 hrs, cooled and diluted with diethyl ether (400 mL). A brown solid was precipitated, filtered, collected and washed with diethyl ether to afford 6,7-dimethoxy-1-oxo-1,2-dihydro-isoquinoline-4-carbonitrile. (3.5 g, 52% yield).

reactant | [2-cyano-2-(3,4-dimethoxy-phenyl)-vinyl]-carbamic acid ethyl ester | 29.0 mmol, 8 g | C(C)OC(NC=C(C1=CC(=C(C=C1)OC)OC)C#N)=O | C14H16N2O4
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | diphenyl ether | 70 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 6,7-dimethoxy-1-oxo-1,2-dihydro-isoquinoline-4-carbonitrile | 52% yield | COC=1C=C2C(=CNC(C2=CC1OC)=O)C#N | C12H10N2O3
